US08809342B2
2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate (5.0 g, 17 mmol) was dissolved in N,N-dimethylformamide (40 mL). Lithium bromide monohydrate (4.7 g, 45 mmol) was added and the reaction was refluxed overnight. The reaction was diluted with saturated ammonium chloride and the layers were separated. The organics were washed with water (3×40 mL) and brine, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (2% ethyl acetate in petroleum ether) gave 2-bromo-1,3-dimethyl-5-nitrobenzene (2.7 g, 69%) as a light yellow solid. 1H NMR (400 MHz, CDCl3, δ): 7.94 (s, 2H), 2.50 (s, 6H).

reactant | 2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate | 17 mmol, 5.0 g | FC(S(=O)(=O)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)(F)F | C9H8F3NO5S
reactant | Lithium bromide monohydrate | 45 mmol, 4.7 g | O.[Br-].[Li+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-bromo-1,3-dimethyl-5-nitrobenzene | 2.7 g, 69% | BrC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8BrNO2
